US06831193B2
4-{[(1S)-1,2,3,4-tetrahydro-1-naphthalenylamino]methyl}benzonitrile
4-Formylbenzonitrile and (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine were processed as described in Example 1A to provide the title compound.

reactant | 4-Formylbenzonitrile | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
product | 4-{[(1S)-1,2,3,4-tetrahydro-1-naphthalenylamino]methyl}benzonitrile | [C@@H]1(CCCC2=CC=CC=C12)NCC1=CC=C(C#N)C=C1 | C18H18N2
